US07893090B2
Description 71: (RS)-2-[1-(4-Bromo-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound (1.45 g) was prepared from 4-bromo-benzofuran (3.65 g, WO0109111) and (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine, D1 (5.17 g) according to a procedure similar to that for Description 2.

reactant | 4-bromo-benzofuran | 3.65 g | BrC1=CC=CC2=C1C=CO2 | C8H5BrO
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
product | (RS)-2-[1-(4-Bromo-benzofuran-2-yl)-methanoyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.45 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1OC2=C(C1)C(=CC=C2)Br | C19H22BrNO4
